US07858796B2
(37) 5-bromo-3-(1-{[3-(methyloxy)propyl]sulfonyl}-4-piperidinyl)-1H-indole-7-carboxamide
The mixture of 5-bromo-3-{1-[(3-chloropropyl)sulfonyl]-4-piperidinyl}-1H-indole-7-carboxamide (23 mg, 0.050 mmol), 0.1 M NaOMe (1 ml) in methanol (1 mL) was refluxed overnight. The reaction mixture was concentrated and purified by reverse phase HPLC (water/CH3CN, 0.1% TFA 10-90%) to give the title compound (18.0 mg, 78%).

reactant | 5-bromo-3-{1-[(3-chloropropyl)sulfonyl]-4-piperidinyl}-1H-indole-7-carboxamide | 0.050 mmol, 23 mg | BrC=1C=C2C(=CNC2=C(C1)C(=O)N)C1CCN(CC1)S(=O)(=O)CCCCl | C17H21BrClN3O3S
reactant | NaOMe | 0.1 M, 1 ml | C[O-].[Na+]
solvent | MeOH | 1 mL | CO | CH4O
product | 5-bromo-3-(1-{[3-(methyloxy)propyl]sulfonyl}-4-piperidinyl)-1H-indole-7-carboxamide | 18.0 mg, 78% | BrC=1C=C2C(=CNC2=C(C1)C(=O)N)C1CCN(CC1)S(=O)(=O)CCCOC | C18H24BrN3O4S
